US04414226
Trimethylsilyl bromide was added to diethyl 1-[2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzamido]ethylphosphonate (500 mg) as obtained in Example 9 and the mixture was stirred at room temperature for 2 hours. The excess trimethylsilyl bromide was distilled off, water was added to the residue, and the mixture was stirred at room temperature for 30 minutes. The resultant crude crystals were recovered by filtration and recrystallized from methanol. The above procedure gave yellow crystals (200 mg) of 1-[2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzamido]ethylphosphonic acid.

reactant | Trimethylsilyl bromide | C[Si](C)(C)Br | C3H9BrSi
reactant | diethyl 1-[2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzamido]ethylphosphonate | 500 mg | OC1=C2C(C=C(C(C2=CC=C1)=O)C1=C(C(=O)NC(C)P(OCC)(OCC)=O)C=C(C=C1OC)C)=O | C25H28NO8P
product | 1-[2-(5-hydroxy-1,4-naphthoquinon-2-yl)-3-methoxy-5-methylbenzamido]ethylphosphonic acid | 200 mg | OC1=C2C(C=C(C(C2=CC=C1)=O)C1=C(C(=O)NC(C)P(O)(O)=O)C=C(C=C1OC)C)=O | C21H20NO8P
